US06953790B2
Step A: tert-Butyl (3R,6S)-6-(2,3-difluorophenyl)-2-oxo-1-(2,2,2-trifluoroethyl)azepan-3-ylcarbamate
Sodium hydride (60% dispersion in mineral oil; 70.7 mg, 1.06 mmol) was added to a solution of tert-butyl (3R,6S)-6-(2,3-difluorophenyl)-2-oxoazepan-3-ylcarbamate (301 mg, 0.884 mmol) in N,N-dimethylformamide (7 mL) at −35° C. After 15 min, 2,2,2-trifluoroethyl trichloromethanesulfonate (0.314 mL, 1.91 mmol) was added and the reaction was stirred at −35° C. After 30 min, an additional amount of sodium hydride (27 mg, 0.40 mmol) and 2,2,2-trifluoroethyl trichloromethanesulfonate (0.140 mL, 0.85 mmol) were added. After 2 h, the reaction was quenched with water and the mixture was extracted with ethyl acetate. The organic layer was washed with water (3×), saturated brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (0% ethyl acetate/hexanes→30% ethyl acetate/hexanes) gave the title compound (306 mg). MS 423 (M+1).

reactant | Sodium hydride | 1.06 mmol, 70.7 mg | [H-].[Na+]
reactant | tert-butyl (3R,6S)-6-(2,3-difluorophenyl)-2-oxoazepan-3-ylcarbamate | 0.884 mmol, 301 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(NC1)=O)NC(OC(C)(C)C)=O | C17H22F2N2O3
reactant | 2,2,2-trifluoroethyl trichloromethanesulfonate | 1.91 mmol, 0.314 mL | ClC(S(=O)(=O)OCC(F)(F)F)(Cl)Cl | C3H2Cl3F3O3S
reactant | sodium hydride | 0.40 mmol, 27 mg | [H-].[Na+]
reactant | 2,2,2-trifluoroethyl trichloromethanesulfonate | 0.85 mmol, 0.140 mL | ClC(S(=O)(=O)OCC(F)(F)F)(Cl)Cl | C3H2Cl3F3O3S
solvent | N,N-dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
product | tert-Butyl (3R,6S)-6-(2,3-difluorophenyl)-2-oxo-1-(2,2,2-trifluoroethyl)azepan-3-ylcarbamate | 306 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(N(C1)CC(F)(F)F)=O)NC(OC(C)(C)C)=O | C19H23F5N2O3
